US07351858B2
(4-{2-[2-(methoxycarbonyl)phenoxy]ethyl}phenoxy)acetic acid (0.150 g, 0.454 mmol) was dissolved in DMF (10 ml), N-benzyl-N-ethylamine (0.061 g, 0.454 mmol) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)-(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.160 g, 0.499 mmol) and N-ethyl-N,N-diisopropylamine (0.123 g, 0.954 mmol) was added. The solution was stirred for two hours at room temperature. EtOAc (20 ml) was added and the organic phase was washed with Na2CO3 (3×20 ml, aq) and HCl (0.5 M, 2×, 10 ml). The organic layer was dried (MgSO4) and the solvent was removed by evaporation to give 0.138 g of methyl 2-[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoate (yield 67.9%).

reactant | (4-{2-[2-(methoxycarbonyl)phenoxy]ethyl}phenoxy)acetic acid | 0.454 mmol, 0.150 g | COC(=O)C1=C(OCCC2=CC=C(OCC(=O)O)C=C2)C=CC=C1 | C18H18O6
reactant | N-benzyl-N-ethylamine | 0.454 mmol, 0.061 g | C(C1=CC=CC=C1)NCC | C9H13N
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)-(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 0.499 mmol, 0.160 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 0.954 mmol, 0.123 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | methyl 2-[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethoxy]benzoate | 0.138 g, yield 67.9% | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)CCOC1=C(C(=O)OC)C=CC=C1)=O)CC | C27H29NO5
